* SRAM 8x8 array: write and half-select disturb test
.include /workspace/analog/designs/pvt.spice
.include ./sram_8x8_9T.spice

XARRAY sram_8x8_9T

* ---- supplies: one global source, per-row taps ----
VVDD vdd_g 0 {VDD_CORNER}
RV0 vdd_g XARRAY.9T_tileable_0[0|7]/VDD 0.001
RV1 vdd_g XARRAY.9T_tileable_0[1|7]/VDD 0.001
RV2 vdd_g XARRAY.9T_tileable_0[2|7]/VDD 0.001
RV3 vdd_g XARRAY.9T_tileable_0[3|7]/VDD 0.001
RV4 vdd_g XARRAY.9T_tileable_0[4|7]/VDD 0.001
RV5 vdd_g XARRAY.9T_tileable_0[5|7]/VDD 0.001
RV6 vdd_g XARRAY.9T_tileable_0[6|7]/VDD 0.001
RV7 vdd_g XARRAY.9T_tileable_0[7|7]/VDD 0.001

VVSS XARRAY.9T_tileable_0[7|7]/VSS 0 0

* ---- row 7's unresolved M1 source nodes, tied to ground ----
VR70 XARRAY.9T_tileable_0[7|0]/a_199_412# 0 0
VR71 XARRAY.9T_tileable_0[7|1]/a_199_412# 0 0
VR72 XARRAY.9T_tileable_0[7|2]/a_199_412# 0 0
VR73 XARRAY.9T_tileable_0[7|3]/a_199_412# 0 0
VR74 XARRAY.9T_tileable_0[7|4]/a_199_412# 0 0
VR75 XARRAY.9T_tileable_0[7|5]/a_199_412# 0 0
VR76 XARRAY.9T_tileable_0[7|6]/a_199_412# 0 0
VR77 XARRAY.9T_tileable_0[7|7]/a_199_412# 0 0

* ---- wordlines: row 0 pulsed, rows 1-7 off ----
VWL0 XARRAY.9T_tileable_0[0|7]/WL 0 0
VWL1 XARRAY.9T_tileable_0[1|7]/WL 0 0
VWL2 XARRAY.9T_tileable_0[2|7]/WL 0 0
VWL3 XARRAY.9T_tileable_0[3|7]/WL 0 PULSE(0 {VDD_CORNER} 5n 0.2n 0.2n 15n 300n)
VWL4 XARRAY.9T_tileable_0[4|7]/WL 0 0
VWL5 XARRAY.9T_tileable_0[5|7]/WL 0 0
VWL6 XARRAY.9T_tileable_0[6|7]/WL 0 0
VWL7 XARRAY.9T_tileable_0[7|7]/WL 0 0

* ---- activations off during write ----
VA0 XARRAY.9T_tileable_0[0|7]/A 0 {VDD_CORNER}
VA1 XARRAY.9T_tileable_0[1|7]/A 0 {VDD_CORNER}
VA2 XARRAY.9T_tileable_0[2|7]/A 0 {VDD_CORNER}
VA3 XARRAY.9T_tileable_0[3|7]/A 0 {VDD_CORNER}
VA4 XARRAY.9T_tileable_0[4|7]/A 0 {VDD_CORNER}
VA5 XARRAY.9T_tileable_0[5|7]/A 0 {VDD_CORNER}
VA6 XARRAY.9T_tileable_0[6|7]/A 0 {VDD_CORNER}
VA7 XARRAY.9T_tileable_0[7|7]/A 0 {VDD_CORNER}

* ---- column 0: drive a write-0 ----
VWBL3  XARRAY.9T_tileable_0[7|3]/WBL  0 {VDD_CORNER}
VWBLB3 XARRAY.9T_tileable_0[7|3]/WBLB 0 0

* ---- columns 1-7: both bitlines high (half-select, no write) ----
VWBL1  XARRAY.9T_tileable_0[7|1]/WBL  0 {VDD_CORNER}
VWBLB1 XARRAY.9T_tileable_0[7|1]/WBLB 0 {VDD_CORNER}
VWBL2  XARRAY.9T_tileable_0[7|2]/WBL  0 {VDD_CORNER}
VWBLB2 XARRAY.9T_tileable_0[7|2]/WBLB 0 {VDD_CORNER}
VWBL0  XARRAY.9T_tileable_0[7|0]/WBL  0 {VDD_CORNER}
VWBLB0 XARRAY.9T_tileable_0[7|0]/WBLB 0 {VDD_CORNER}
VWBL4  XARRAY.9T_tileable_0[7|4]/WBL  0 {VDD_CORNER}
VWBLB4 XARRAY.9T_tileable_0[7|4]/WBLB 0 {VDD_CORNER}
VWBL5  XARRAY.9T_tileable_0[7|5]/WBL  0 {VDD_CORNER}
VWBLB5 XARRAY.9T_tileable_0[7|5]/WBLB 0 {VDD_CORNER}
VWBL6  XARRAY.9T_tileable_0[7|6]/WBL  0 {VDD_CORNER}
VWBLB6 XARRAY.9T_tileable_0[7|6]/WBLB 0 {VDD_CORNER}
VWBL7  XARRAY.9T_tileable_0[7|7]/WBL  0 {VDD_CORNER}
VWBLB7 XARRAY.9T_tileable_0[7|7]/WBLB 0 {VDD_CORNER}

* ---- initial state: representative cells hold Q=1 ----
.ic v(XARRAY.X9T_tileable_0[0|0].Q)={VDD_CORNER}
.ic v(XARRAY.X9T_tileable_0[0|0].QB)=0
.ic v(XARRAY.X9T_tileable_0[0|1].Q)={VDD_CORNER}
.ic v(XARRAY.X9T_tileable_0[0|1].QB)=0
.ic v(XARRAY.X9T_tileable_0[1|0].Q)={VDD_CORNER}
.ic v(XARRAY.X9T_tileable_0[1|0].QB)=0
.ic v(XARRAY.X9T_tileable_0[7|0].Q)={VDD_CORNER}
.ic v(XARRAY.X9T_tileable_0[7|0].QB)=0
.ic v(XARRAY.X9T_tileable_0[3|3].Q)={VDD_CORNER}
.ic v(XARRAY.X9T_tileable_0[3|3].QB)=0

.control
  save all
  tran 0.05n 150n uic

  echo
  echo ===== SELECTED [0,0]: should write to 0 =====
  meas tran q00_init  FIND v(XARRAY.X9T_tileable_0[0|0].Q) AT=4n
  meas tran q00_final FIND v(XARRAY.X9T_tileable_0[0|0].Q) AT=140n

  echo
  echo ===== HALF-SELECT [0,1]: same WL, must hold 1 =====
  meas tran q01_final FIND v(XARRAY.X9T_tileable_0[0|1].Q) AT=140n
  meas tran q01_dip   MIN  v(XARRAY.X9T_tileable_0[0|1].Q) FROM=5n TO=25n

  echo
  echo ===== SAME COLUMN [1,0]: WL off, must hold 1 =====
  meas tran q10_final FIND v(XARRAY.X9T_tileable_0[1|0].Q) AT=140n
  meas tran q10_dip   MIN  v(XARRAY.X9T_tileable_0[1|0].Q) FROM=5n TO=25n

  echo
  echo ===== MIDDLE CELL [3,3] =====
  meas tran q33_final FIND v(XARRAY.X9T_tileable_0[3|3].Q) AT=140n
  meas tran q33_dip   MIN  v(XARRAY.X9T_tileable_0[3|3].Q) FROM=5n TO=25n

  echo
  echo ===== FAR CORNER [7,0]: IR-drop check =====
  meas tran q70_final FIND v(XARRAY.X9T_tileable_0[7|0].Q) AT=140n
  meas tran vdd7_min  MIN v(XARRAY.9T_tileable_0[7|7]/VDD) FROM=5n TO=25n

  echo
  echo ===== Compute Measuresments [A - HI] =====
  meas tran rbl33 FIND v(XARRAY.9T_tileable_0[3|3]/RBL) AT=140n
  meas tran rbl00 FIND v(XARRAY.9T_tileable_0[0|0]/RBL) AT=140n

  set gnuplot_terminal=png
  gnuplot /workspace/analog/sim/9t/results/q33 v(XARRAY.X9T_tileable_0[3|3].Q) v(XARRAY.X9T_tileable_0[3|3].QB)

  write /workspace/analog/sim/9t/results/array_8x8_write.raw all
.endc

.end